US08110695B2
4-Methyl-1-phenylpent-4-en-2-yn-1-ol
2-Methylbut-1-en-3-yne (3.45 g, 52.19 mmol), nBuLi (36.0 mL, 57.6 mmol) and benzaldehyde (6.642 g, 62.63 mmol) were used according to the general method mentioned above. Purification of the resulting clear yellow-brown crude product yielded the pure product as a clear yellow-brown oil (8.442 g, 49.02 mmol, 93.9%): Rf 0.72 (hexanes/Et2O, 4:1); 1H NMR (300 MHz, CDCl3) δ 7.49-7.69 (m, 2H, H-8), 7.30-7.49 (m, 3H, H-9, 10), 5.58 (d, J=6.2 Hz, 1H, H-1), 5.37 (bs, 1H, H-5), 5.28 (p, J=1.5 Hz, 1H, H-5), 2.43 (d; J=6.2 Hz, 1H, —OH), 1.93 (bs, 3H, H-10); 13C NMR (300 MHz, CDCl3) δ 140.6 (C-7), 128.6 (C-9), 128.3 (C-10), 126.6 (C-8), 126.1 (C-4), 126.6 (C-5), 87.8 (C-2/3), 87.7 (C-2/3), 64.9 (C-1), 23.3 (C-6); HRMS calcd for C12H12O (M+) 172.0888. found 172.0885.

reactant | 2-Methylbut-1-en-3-yne | 52.19 mmol, 3.45 g | CC(=C)C#C | C5H6
reactant | nBuLi | 57.6 mmol, 36.0 mL | [Li]CCCC
reactant | benzaldehyde | 62.63 mmol, 6.642 g | C(C1=CC=CC=C1)=O | C7H6O
product | 4-Methyl-1-phenylpent-4-en-2-yn-1-ol | 49.02 mmol, 8.442 g, 93.9% | CC(C#CC(O)C1=CC=CC=C1)=C | C12H12O
